US06420359B1
f) 2,5-Dimethyl-5,11-dihydro-11-ethyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one
Diethyl azodicarboxylate (DEAD) (139 μL, 0.88 mmol) was added dropwise to a solution of 5,11-dihydro-2,5-dimethyl-11-ethyl-8-(2-hydroxyethyl)-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one (110 mg, 0.35 mmol), 4-hydroxyquinoline (128 mg, 0.88 mmol) and Ph3P (231 mg, 0.88 mmol) in THF (3.5 mL) at room temperature. The mixture was stirred at room temperature for 16 h. The reaction mixture was diluted in EtOAc (60 mL) and the solution was successively washed with 1 N aqueous NaOH (3×10 mL) and brine (15 mL) then was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (EtOAc then EtOAc:MeOH, 9.5:0.5) to give the title compound (57 mg, 37% yield) as a white solid: MS (ESI) m/z 440 (MH)+.

reactant | Diethyl azodicarboxylate | 0.88 mmol, 139 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 5,11-dihydro-2,5-dimethyl-11-ethyl-8-(2-hydroxyethyl)-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one | 0.35 mmol, 110 mg | CC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCO)=O)C | C17H20N4O2
reactant | 4-hydroxyquinoline | 0.88 mmol, 128 mg | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | Ph3P | 0.88 mmol, 231 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
product | 2,5-Dimethyl-5,11-dihydro-11-ethyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one | 57 mg, 37% yield | CC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C | C26H25N5O2
